US07153814B2
2 g of cyclopropyl(4,5-difluoro-2-anisyl)amine and 0.48 g of sodium hydride are stirred in 10 ml of dimethylformamide for 20 min at ambient temperature, 1.25 ml of methyl iodide are subsequently added and the mixture is additionally stirred for 20 h at 40° C. After filtering and evaporating, the reaction mixture is taken up in diethyl ether and the organic phase is washed with water, dried with magnesium sulfate and evaporated to dryness. Cyclopropyl-(4,5-difluoro-2-anisyl)methylamine is thus obtained as a yellow oil.

reactant | cyclopropyl(4,5-difluoro-2-anisyl)amine | 2 g | C1(CC1)NCC=1C(=CC(=C(C1)F)F)OC | C11H13F2NO
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | methyl iodide | 1.25 ml | CI | CH3I
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Cyclopropyl-(4,5-difluoro-2-anisyl)methylamine | C1(CC1)NCCC=1C(=CC(=C(C1)F)F)OC | C12H15F2NO
